US07053212B2
Step E: N-[4-(2-Bromo-ethoxy)-phenyl]-2,4.6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
To a suspension of N-(4-hydroxy-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (0.238 g, 0.49 mmol) and 1,2-dibromoethane (0.43 mL, 4.94 mmol) in 1 mL water was added sodium hydroxide (0.020 g, 0.49 mmol, dissolved in 0.1 mL of water). The reaction mixture was heated at reflux for 3 hr. and was cooled to room temperature. The reaction mixture was diluted with 10 mL water and the aqueous solution was washed with ethyl acetate (3×15 mL). The combined organic layers were washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and concentrated. Medium pressure silica gel chromatography (25% ethyl acetate/hexanes) afforded 0.075 g of the title compound of Step E.

reactant | N-(4-hydroxy-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.49 mmol, 0.238 g | OC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1 | C27H31NO5S
reactant | 1,2-dibromoethane | 4.94 mmol, 0.43 mL | BrCCBr | C2H4Br2
reactant | sodium hydroxide | 0.49 mmol, 0.1 mL, 0.020 g | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | N-[4-(2-Bromo-ethoxy)-phenyl]-2,4.6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.075 g | BrCCOC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1 | C29H34BrNO5S
